US08071651B2
a) (cis)-5-Methoxytetrahydropyran-3-carboxylic acid
A solution of 10.55 mmol of methyl (cis)-5-methoxytetrahydropyran-3-carboxylate in 45 ml of methanol is mixed with 45 ml of 1M LiOH and stirred at room temperature for one hour. The reaction mixture is evaporated, and the residue is taken up in dichloromethane. The pH is adjusted to 2 with 2M HCl, the phases are separated, and the aqueous phase is extracted with dichloromethane (2×). The combined organic phases are dried with sodium sulphate and evaporated. The crude title compound is identified by means of the Rf from the residue.

reactant | methyl (cis)-5-methoxytetrahydropyran-3-carboxylate | 10.55 mmol | CO[C@@H]1C[C@@H](COC1)C(=O)OC | C8H14O4
reactant | LiOH | 1M, 45 ml | [Li+].[OH-]
solvent | methanol | 45 ml | CO | CH4O
product | (cis)-5-Methoxytetrahydropyran-3-carboxylic acid | CO[C@@H]1C[C@@H](COC1)C(=O)O | C7H12O4
